US07977344B2
2-{[(1R)-1-Methylbutyl]oxy}-8-(methyloxy)-9-[4-(tetrahydro-2H-pyran-2-yl)butyl]-9H-purin-6-amine
Prepared similarly to Intermediate 213 from 2-{[(1R)-1-methylbutyl]oxy}-8-(methyloxy)-1H-purin-6-amine trifluoroacetate and 2-(4-bromobutyl)tetrahydro-2H-pyran.

reactant | 2-{[(1R)-1-methylbutyl]oxy}-8-(methyloxy)-1H-purin-6-amine trifluoroacetate | FC(C(=O)O)(F)F.C[C@H](CCC)OC=1NC(=C2N=C(N=C2N1)OC)N
reactant | 2-(4-bromobutyl)tetrahydro-2H-pyran | BrCCCCC1OCCCC1 | C9H17BrO
product | 2-{[(1R)-1-Methylbutyl]oxy}-8-(methyloxy)-9-[4-(tetrahydro-2H-pyran-2-yl)butyl]-9H-purin-6-amine | C[C@H](CCC)OC1=NC(=C2N=C(N(C2=N1)CCCCC1OCCCC1)OC)N | C20H33N5O3
